US08633173B2
2-(4-{4-[8-(4-difluoromethyl-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide was prepared from [8-(4-difluoromethyl-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine (0.160 g, 0.356 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.055 mL, 0.534 mmol) in a manner analogous to Example 313 to give product (0.035 g, 18%).

reactant | [8-(4-difluoromethyl-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | 0.356 mmol, 0.160 g | FC(C1=CC(=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2)OC)F | C25H25F2N5O
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.534 mmol, 0.055 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(4-{4-[8-(4-difluoromethyl-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide | FC(C1=CC(=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N(C)C)OC)F | C29H32F2N6O2
